US05652233
3-Fluoro-5-nitrobenzoic acid (3 g, 16.2 mM), p-toluene-sulfonic acid (1.54 g, 8.1 mM), and allyl alcohol (50 ml) were heated to reflux, passing the distillate through 3å molecular sieves, for 16 hours. After cooling, the mixture was neutralised with triethylamine, and solvent removed. The residue was dissolved in ethyl acetate, washed with 2M hydrochloric acid, aqueous NaHCO3, and brine, and dried over MgSO4. Crude product was purified by chromatography on silica, using a gradient elution from dichloromethane to ethyl acetate/dichloromethane (3:1), to give allyl 3-fluoro-5-nitrobenzoate. Nmr (CDCl3): δ 4.89 (dt, 2H); 5.33-5.49 (m, 2H); 5.95-6.15 (m, 1H); 8.11 (m, 2H); 8.70 (t, 1H).

reactant | 3-Fluoro-5-nitrobenzoic acid | 16.2 mM, 3 g | FC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4FNO4
reactant | p-toluene-sulfonic acid | 8.1 mM, 1.54 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | allyl alcohol | 50 ml | C(C=C)O | C3H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | allyl 3-fluoro-5-nitrobenzoate | FC=1C=C(C(=O)OCC=C)C=C(C1)[N+](=O)[O-] | C10H8FNO4
